US07615568B2
B. Methyl 2-(cis-4-t-butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoate
Using a procedure analogous to Example 1-D, trans-4-(t-butoxycarbonylamino)cyclohexanol and methyl 2-hydroxy-4-methylthiobenzoate gave the title compound as a white solid (16.0 g, 16%).

reactant | trans-4-(t-butoxycarbonylamino)cyclohexanol | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
reactant | methyl 2-hydroxy-4-methylthiobenzoate | OC1=C(C(=S)OC)C=CC(=C1)C | C9H10O2S
product | Methyl 2-(cis-4-t-butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoate | 16.0 g, 16% | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OC1=C(C(=S)OC)C=CC(=C1)C | C20H29NO4S
